US06525042B1
1-[3-(1-tert-Butoxycarbonylpiperidin-4-yl]propionyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In a similar manner to Referential Example 12 except for the use of 3-(1-tert-butoxycarbonylpiperidin-4-yl)propionic acid and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 3-(1-tert-butoxycarbonylpiperidin-4-yl)propionic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[3-(1-tert-Butoxycarbonylpiperidin-4-yl]propionyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl | C27H36ClN3O5S
